US07067540B2
N-[(5-{[3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazin-2-yl)methyl]-2-hydroxy-N,2-dimethylpropanamide
To a cold (5° C.) solution of 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-({5-[(methylamino)methyl]pyrazin-2-yl}methyl)pyridin-2(1H)-one (0.24 g, 0.52 mmol) in DMF (2.0 ml), was added 2-acetoxyisobutyryl chloride (0.093 g, 0.56 mmol), followed by the addition of triethylamine (0.072 g, 0.71 mmol). The mixture was stirred at room temperature for an additional 2 h and concentrated in vacuo. The residue was partitioned between water (5.0 mL) and EtOAc (15.0 mL). The EtOAc extract was washed with water, dried (Na2SO4), and concentrated to dryness. The resulting material (0.2 g) was stirred with 1M. LiOH (0.5 mL, MeOH/Water 1:1 v/v) at room temperature for 3 h, cooled, acidified with trifluoroacetic acid and the product was purified by reverse-phase HPLC using 10-90% CH3CN/Water gradient (60 min) at a flow rate of 70 mL/min. The appropriate fractions (m/z=551 M+H) were combined and freeze dried to give a white powder. This was partitioned between 5% NaHCO3 (10 mL) and EtoAc (15 mL). The organic layer was washed with water, dried (Na2SO4), and concentrated to dryness to afford the title compound (0.075 g) as a white powder: 1H NMR (CD3OD/400 MHz) δ 8.59 (s, 1H), 8.41 (br, 1H), 7.60 (m, 2H), 7.01 (m, 2H), 6.52 (s, 1H), 5.45 (s, 2 h), 5.29 (s, 2H),

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-({5-[(methylamino)methyl]pyrazin-2-yl}methyl)pyridin-2(1H)-one | 0.52 mmol, 0.24 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=NC=C(N=C1)CNC)=O | C20H19BrF2N4O2
reactant | 2-acetoxyisobutyryl chloride | 0.56 mmol, 0.093 g | C(C)(=O)OC(C(=O)Cl)(C)C | C6H9ClO3
reactant | triethylamine | 0.71 mmol, 0.072 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | N-[(5-{[3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazin-2-yl)methyl]-2-hydroxy-N,2-dimethylpropanamide | 0.075 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1N=CC(=NC1)CN(C(C(C)(C)O)=O)C)=O | C24H25BrF2N4O4
